US05348955
Step B: (S)-1-(tert-Butyloxycarbonyl)piperazine-2-carboxylic acid
A solution of 4.00 g (10.98 mmole) of (S)-4-(benzyloxycarbonyl)-1-(tert-butyloxycarbonyl)-piperazine-2-carboxylic acid in 40 ml of methanol was hydrogenated over 1.0 g of 10% pd/c with rocking at 25° under 40 psi of hydrogen for 16 hr. The mixture was filtered and the cake was washed with a mixture of 100 ml of dichloromethane, 50 ml of methanol and 1.0 g of diisopropylethyl amine. Concentration in vacuo followed by Pumping in vacuo for 2 hr left 2.39 g (95%) of white solid which was homogeneous by tlc (silica gel, 1:1:1:1 ethyl acetate:n-butanol:acetic acid:water, Rf =0.70).

reactant | (S)-4-(benzyloxycarbonyl)-1-(tert-butyloxycarbonyl)-piperazine-2-carboxylic acid | 10.98 mmole, 4.00 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)O | C18H24N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 ml | CO | CH4O
product | (S)-1-(tert-Butyloxycarbonyl)piperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)C(=O)O | C10H18N2O4
